US07229998B2
Ethyl 2-{4-[({4-(hydroxymethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)-sulfanyl]phenoxy}-2-methylpropanoate
To a stirred suspension of zinc dust (0.75 wt, 3.5 eq) in isopropyl acetate (5 vols), add a solution of DME (0.5 vol) and water (0.5 eq). Heat the resulting solution from room temperature to 40° C. Treat the reaction mixture with a solution of ethyl 2-[4-(chlorosulfonyl)phenoxy]-2-methylpropanoate (1.0 wt, 1.0 eq) and dichlorodimethylsilane (0.32 wt, 0.75 eq) in isopropyl acetate (3 vols) over a period of 2 h as this addition is mildly exothermic. After the addition is complete, increase the process temperature to 60° C. Treat the suspension at 60° C. slowly with neat dichlorodimethylsilane (0.95 wt, 2.3 eq) over a period of 1 h. When the reduction of the sulfonylchloride is deemed complete (by HPLC), treat the reaction mixture with {5-Hydroxymethyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}methanol (1.04 wt, 1.1 eq) in one portion at 60° C. After the addition is complete, increase the process temperature to 89° C. and stir the reaction mixture at this temperature for 3 to 5 h then cool to ambient temperature. Filter the reaction mixture to remove unreacted zinc residue, wash the filtrate with water (2×8 vols) and concentrate the organic layer to about 3.5 volumes via vacuum distillation at 40–45° C. Dissolve the resultant, somewhat syrupy, residue in ethanol (2 vols) and treat the resulting solution with iso-octane (2 vols). Cool the clear yellow-tinted solution to ambient temperature to induce crystallization of the product. Collect the solid via filtration. Wash the wet cake with iso-octane/EtOH (9:1, 1 vol) and dry under vacuum (˜21 Torr) at 60° C. for 12 h to afford the title compound as an off-white solid.

reactant | water | 0.5 eq | O | H2O
reactant | ethyl 2-[4-(chlorosulfonyl)phenoxy]-2-methylpropanoate | 1.0 eq | ClS(=O)(=O)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H15ClO5S
reactant | dichlorodimethylsilane | 0.75 eq | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | dichlorodimethylsilane | 2.3 eq | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | sulfonylchloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | {5-Hydroxymethyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}methanol | 1.1 eq | OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CO | C12H10F3NO2S
solvent | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
catalyst | zinc | 3.5 eq | [Zn] | Zn
solvent | DME | COCCOC | C4H10O2
product | Ethyl 2-{4-[({4-(hydroxymethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)-sulfanyl]phenoxy}-2-methylpropanoate | OCC=1N=C(SC1CSC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H24F3NO4S2
